US07655670B2
4-[Benzyl-(2-bromo-phenyl)-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester
4-(2-Bromo-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester (0.50 g, 1.30 mmol) was dissolved in dry N,N-dimethylformamide (5.0 mL). To the reaction mixture was then added at 0° C. sodium hydride (60% in mineral oil, 63.6 mg, 1.59 mmol) under nitrogen atmosphere and the reaction mixture was stirred at 0° C. for one hour. To the reaction mixture was then added at 0° C. benzyl bromide (0.267 g, 1.56 mmol). The reaction mixture was stirred at 0° C. for one hour, then at room temperature under nitrogen atmosphere for 1 day. The reaction mixture was then added into an excess of water-ice and a gum formed. The gum was filtered by suction, washed with water and dried to yield a crude solid. The crude solid was purified via flash chromatography (30% ethyl acetate/hexanes) to yield the title compound as a solid.

reactant | 4-(2-Bromo-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)Br)=O | C17H23BrN2O3
reactant | sodium hydride | 1.59 mmol, 63.6 mg | [H-].[Na+]
reactant | benzyl bromide | 1.56 mmol, 0.267 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 4-[Benzyl-(2-bromo-phenyl)-carbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(C1=C(C=CC=C1)Br)CC1=CC=CC=C1)=O | C24H29BrN2O3
